US07414134B2
Step (iv): Synthesis of (R)-3-(1-((R)-7-((4-fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoic acid (60)
(R)-Methyl 3-(1-((R)-7-((4-Fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoate (130. mg, 0.228 mmol), 1N LiOH (0.3 mL, 0.3 mmol) in 4 mL MeOH was stirred for 14 h at RT. The reaction mixture was then stirred at 55° C. for 24 h. The reaction mixture was cooled, concentrated and neutralized with 1N HCl. A precipitate formed that was filtered and washed with ether to afford the title compound. MS (m/z): 558.4 (m+H).

reactant | (R)-Methyl 3-(1-((R)-7-((4-Fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoate | 0.228 mmol | FC1CCN(CC1)CC1=CC=C2[C@@H](CCOC2=C1)N1N=NC(=C1)C[C@H](C(=O)OC)NS(=O)(=O)C1=CC=C(C=C1)C | C28H34FN5O5S
reactant | LiOH | 0.3 mmol, 1N, 0.3 mL | [Li+].[OH-]
solvent | MeOH | 4 mL | CO | CH4O
product | (R)-3-(1-((R)-7-((4-fluoropiperidin-1-yl)methyl)-3,4-dihydro-2H-chromen-4-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylphenylsulfonamido)propanoic acid | FC1CCN(CC1)CC1=CC=C2[C@@H](CCOC2=C1)N1N=NC(=C1)C[C@H](C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C | C27H32FN5O5S
